US04082752
In a 200 ml volume flask made from "Daiflon Resin" (trifluorochloroethylene resin manufactured by Daikin Kogyo Co., Ltd.) which is equipped with a stirrer, a cooler, an inlet for gas and a thermometer, a designed amount of uracil and an aqueous solution of hydrofluoric acid (50 g) are charged, and the contents are stirred at a temperature lower than the reaction temperature to dissolve uracil in the aqueous solution of hydrofluoric acid. A designed amount of fluorine gas diluted or not with nitrogen gas is introduced therein over a period of 30 minutes to 1 hour. Then, nitrogen gas is made to pass through the flask for about 10 minutes to remove fluorine present in the reaction system. The reaction solvent is distilled off with heating to obtain crude 5-fluorouracil.

reactant | Daiflon | C(=C(F)Cl)(F)F | C2ClF3
reactant | trifluorochloroethylene | FC(=C(Cl)F)F | C2ClF3
reactant | uracil | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | fluorine | FF | F2
solvent | hydrofluoric acid | F | FH
solvent | hydrofluoric acid | 50 g | F | FH
product | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
